US08084448B2
A. 1-Benzenesulfonyl-2-vinylpyrrolidine
To a suspension of methyl triphenylphosphonium bromide (357 mg, 1 mmol) in THF (10 mL) at −78° C. is added dropwise KHMDS (1 mmol, 2 mL of 0.5M solution). To this yellow solution is added dropwise a solution of 1-benzenesulfonylpyrrolidine-2-carbaldehyde (235 mg, 1 mmol) in THF (1 mL). The mixture is stirred at −78° C. for 2 h then is allowed to warm to RT. The mixture is poured into 1N HCl and extracted with EtOAc. The organic phase is washed with brine and dried over magnesium sulfate then the solvent removed under reduced pressure. The resulting oil is purified by flash chromatography using a gradient of 0-20% EtOAc/hexane as eluent to give the title compound.

reactant | KHMDS | 1 mmol, 0.5M, 2 mL | C[Si](C)(C)[N-][Si](C)(C)C.[K+]
reactant | 1-benzenesulfonylpyrrolidine-2-carbaldehyde | 1 mmol, 235 mg | C1(=CC=CC=C1)S(=O)(=O)N1C(CCC1)C=O | C11H13NO3S
reactant | HCl | 1N | Cl | ClH
catalyst | methyl triphenylphosphonium bromide | 1 mmol, 357 mg | [Br-].C[P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1
solvent | THF | 10 mL | C1CCOC1 | C4H8O
solvent | THF | 1 mL | C1CCOC1 | C4H8O
product | 1-Benzenesulfonyl-2-vinylpyrrolidine | C1(=CC=CC=C1)S(=O)(=O)N1C(CCC1)C=C | C12H15NO2S
